US07375236B2
1-Bromo-3,4-diethoxy-2-fluorobenzene
A solution of N-bromosuccinimide (NBS) (153.72 g, 864 mmol) in acetonitrile (1.5 L) was added dropwise to a solution of 1,2-diethoxy-3-fluorobenzene (150.00 g, 814 mmol) in acetonitrile (900 mL) on ice, and this was stirred at room temperature overnight. After the solvent was distilled off, ethyl acetate was added to the residue and washed with water. The obtained aqueous layer was extracted again with ethyl acetate, and the extract was combined with the aforementioned organic layer. The organic layer was washed sequentially with water, saturated brine, and water again, and was dried over anhydrous magnesium sulfate. The solution was concentrated and an oily substance was obtained. Following hexane addition to the oily substance, crystals that have precipitated were removed by filtration. The remaining solution was concentrated to yield an oily substance, which was distilled under reduced pressure to obtain 205.65 g of the subject compound (yield: 96%).

reactant | N-bromosuccinimide | 864 mmol, 153.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,2-diethoxy-3-fluorobenzene | 814 mmol, 150.00 g | C(C)OC1=C(C(=CC=C1)F)OCC | C10H13FO2
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 1.5 L | C(C)#N | C2H3N
solvent | acetonitrile | 900 mL | C(C)#N | C2H3N
product | 1-Bromo-3,4-diethoxy-2-fluorobenzene | 205.65 g, yield: 96% | BrC1=C(C(=C(C=C1)OCC)OCC)F | C10H12BrFO2
